US05821366
6-AMINO-1-(2-METHYLPHENYL)-3-[2-(METHYLTHIO)BENZYL]URACIL
1-(2-Methylphenyl)-3-[2-(methylthio)benzyl]urea (23.47 g) and cyanoacetic acid (7.66 g) were ground together and acetic anhydride (23 ml) was added. The mixture was stirred and heated at 75°-80° C. for 30 h. Toluene (20 ml) was then added and heating continued for a further 16 hours. The reaction was cooled and filtered. The filtrate was heated to boiling and treated with charcoal. The solid was removed by filtration and the filtrate evaporated in vacuo. The resulting oil was dissolved in dichloromethane (300 ml) and trietbylamine (8.15 g) added. The mixture was stirred for 5 hours at room temperature and the solvent removed in vacuo. The residue was purified by column chromatography on silica gel eluting with ethyl acetate and the product was recrystallised from ethyl acetate. Yield=2.60 g.

reactant | 1-(2-Methylphenyl)-3-[2-(methylthio)benzyl]urea | 23.47 g | CC1=C(C=CC=C1)NC(=O)NCC1=C(C=CC=C1)SC | C16H18N2OS
reactant | cyanoacetic acid | 7.66 g | C(#N)CC(=O)O | C3H3NO2
reactant | acetic anhydride | 23 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6-AMINO-1-(2-METHYLPHENYL)-3-[2-(METHYLTHIO)BENZYL]URACIL | NC1=CC(N(C(N1C1=C(C=CC=C1)C)=O)CC1=C(C=CC=C1)SC)=O | C19H19N3O2S
